US04565869
A solution of 7.25 g (50 mmol) of 6-chloro-2,4-diaminopyrimidine in 100 ml of dimethylformamide and 20 ml of triethylamine is cooled to 0° and treated dropwise with 10 ml of ethyl chloroformate. The mixture is stirred at room temperature for 70 hours, the precipitated material is filtered off under suction, the filtrate is evaporated and the residue is taken up in methylene chloride. The organic phase is washed with 1N hydrochloric acid, dried over magnesium sulphate and evaporated under vacuum. The crude product obtained is chromatographed on silica gel, there being obtained pure diethyl 6-chloro-2,4-pyrimidinedicarbamate of melting point 153°-154°.

reactant | 6-chloro-2,4-diaminopyrimidine | 50 mmol, 7.25 g | ClC1=CC(=NC(=N1)N)N | C4H5ClN4
reactant | ethyl chloroformate | 10 ml | ClC(=O)OCC | C3H5ClO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | diethyl 6-chloro-2,4-pyrimidinedicarbamate | ClC1=CC(=NC(=N1)NC(=O)OCC)NC(=O)OCC | C10H13ClN4O4
